US05523299
2-(3-Bromo-5-ethylsulphonyl-2-methoxyphenyl)-5-(1-piperidinyl-methyl)-1H-pyrrole (E18)
This compound was prepared by a method analogous to that used to prepare example 2, but using 2-(3-bromo-5ethylsulphonyl-2-methoxy-phenyl)-1H-pyrrole (prepared according to the method of Kruse et al., [Heterocycles, 26,3141, 1987] from the corresponding acid chloride) in place of 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole. NMR δ(CDCl3) 1.30-1.70 (9H, m), 2.40 (4H, m), 3.15 (2H, q, J=7 Hz), 3.50 (2H, s), 3.80 (3H, s), 6.10 (1H, t, J=2 Hz), 6.60 (1H, t, J=2 Hz), 7.80 (1H, d, J=1 Hz), 8.00 (1H, d, J=1 Hz), 9.9 (1H, s).

reactant | 2-(3-bromo-5ethylsulphonyl-2-methoxy-phenyl)-1H-pyrrole | BrC=1C(=C(C=C(C1)S(=O)(=O)CC)C=1NC=CC1)OC | C13H14BrNO3S
reactant | 2-(5-ethylsulphonyl-2-methoxyphenyl)-1H-pyrrole | C(C)S(=O)(=O)C=1C=CC(=C(C1)C=1NC=CC1)OC | C13H15NO3S
product | 2-(3-Bromo-5-ethylsulphonyl-2-methoxyphenyl)-5-(1-piperidinyl-methyl)-1H-pyrrole | BrC=1C(=C(C=C(C1)S(=O)(=O)CC)C=1NC(=CC1)CN1CCCCC1)OC | C19H25BrN2O3S
